US05684029
4'-[[2-n-Butyl-6-(N-methylaminocarbonyl-n-pentylamino)-benzimidazol-1-yl]methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 55 from 4'-[[2-n-butyl-6-(N-methylaminocarbonyl-n-pentylamino)-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl and hydrochloric acid in ethanol.

reactant | 4'-[[2-n-butyl-6-(N-methylaminocarbonyl-n-pentylamino)-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2)N(C(=O)NC)CCCCC | C51H52N8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4'-[[2-n-Butyl-6-(N-methylaminocarbonyl-n-pentylamino)-benzimidazol-1-yl]methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2)N(C(=O)NC)CCCCC | C32H38N8O
